* C:\Users\xfalc\OneDrive\Área de Trabalho\asdqwe\quadriplas\ltspice\minhalinha.asc
V1 N006 0 SINE(0 97580.73580 60)
R2 N007 N006 4
L4 0 N012 100k
L5 0 N001 1111111.11
R1 N011 N010 33.9m
R3 N010 0 4320
L1 N007 N008 0.001007
L2 N010 0 13.39554
L3 N011 N012 0.0022546m
R4 N013 N001 13.76
L6 N013 N003 0.1744
C1 N001 0 0.544µ
C2 N003 0 0.544µ
R5 N030 N001 13.76
L7 N030 N003 0.1744
C3 N001 0 0.544µ
C4 N003 0 0.544µ
R6 N002 N001 13.76
L8 N002 N003 0.1744
C5 N001 0 0.544µ
C6 N003 0 0.544µ
R7 N003 N029 7900
L9 N029 0 41
R8 N004 N003 17.2
L10 N004 N005 0.218
C7 N003 0 0.68µ
C8 N005 0 0.68µ
R9 N014 N003 17.2
L11 N014 N005 0.218
C9 N003 0 0.68µ
C10 N005 0 0.68µ
L12 N009 N010 0.0100798m
R10 N009 N008 7.6m
L13 0 N018 100k
L14 0 N019 36000
R11 N017 N016 33.9m
R12 N016 0 432000
L15 N016 0 1339.55
L16 N017 N018 0.0022546m
L17 N015 N016 0.0100798m
R13 N015 N005 7.6m
R14 N020 N019 15.48
L18 N020 N021 0.1962
C11 N019 0 0.612µ
C12 N021 0 0.612µ
R15 N019 N028 1375.55
L19 N028 0 7.05
L20 0 N025 100k
L21 0 N026 25000
R16 N024 N023 33.9m
R17 N023 0 402000
L22 N023 0 1610.11
L23 N024 N025 0.0022546m
L24 N022 N023 0.0100798m
R18 N022 N021 7.6m
R19 N026 N027 620
L25 N027 0 3.4
L27 N003 0 4.7
.tran 0 300m 0 1e-4
K1 L4 L5 1
K2 L13 L14 1
K3 L20 L21 1
.backanno
.end
